US06723744B2
Step D: 4-(4-Amino-2,6-dimethyl-phenoxy)-2-(4-fluoro-benzenesulfonyl)-phenol
To a solution of 4-(2,6-dimethyl-4-nitro-phenoxy)-2-(4-fluoro-benzenesulfonyl)-phenol (11.4 grams, 27.4 mmol) in a mixture of ethanol (200 mL and ethyl acetate (200 mL) was added catalyst (10% palladium on carbon, 2.3 grams). The mixture was hydrogenated under 45 psi at room temperature for 4 hours. The mixture was filtered through Celite and concentrated to give the title compound of Step D (10.5 grams) as a tan solid. The product was used in the next step without further purification. 1H NMR (400 MHz, CD3OD) δ7.98-7.92 (m, 2H), 7.29-7.22 (m, 2H), 7.21 (d, 1H), 6.92 (dd, 1H), 6.78 (d, 1H), 1.98 (s, 6H). MS (APCI−) Calc.:387.1, Found: 386.2 (M−1).

reactant | 4-(2,6-dimethyl-4-nitro-phenoxy)-2-(4-fluoro-benzenesulfonyl)-phenol | 27.4 mmol, 11.4 grams | CC1=C(OC2=CC(=C(C=C2)O)S(=O)(=O)C2=CC=C(C=C2)F)C(=CC(=C1)[N+](=O)[O-])C | C20H16FNO6S
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-(4-Amino-2,6-dimethyl-phenoxy)-2-(4-fluoro-benzenesulfonyl)-phenol | 10.5 grams | NC1=CC(=C(OC2=CC(=C(C=C2)O)S(=O)(=O)C2=CC=C(C=C2)F)C(=C1)C)C | C20H18FNO4S
